US04826866
5-Methyl-3-(1-naphthalenylamino)-1H-pyrazole-4-carboxylic acid, ethyl ester
A suspension of 15.0 g (0.069 mole) of 4-(1-naphthalenyl)-3-thiosemicarbazide and 11.4 g (0.069 mole) of ethyl 2-chloroacetoacetate in 100 mL of absolute ethanol was stirred at room temperature for 1 hr. Alcoholic hydrogen chloride (2N, 50 mL) was added, the mixture refluxed for 1 hr, filtered while hot and the filtrate evaporated under reduced pressure. The residue was recrystallized twice from 190 ethanol then twice from absolute ethanol to give 6.2 g of product, mp 199°-202° C. The sample was dried at 56° C./4 hr/0.1 mmHg then at 25° C./0.1 mmHg/for ~16 hr.

reactant | 4-(1-naphthalenyl)-3-thiosemicarbazide | 0.069 mole, 15.0 g | C1(=CC=CC2=CC=CC=C12)NC(NN)=S | C11H11N3S
reactant | ethyl 2-chloroacetoacetate | 0.069 mole, 11.4 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 50 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-Methyl-3-(1-naphthalenylamino)-1H-pyrazole-4-carboxylic acid, ethyl ester | 6.2 g | CC1=C(C(=NN1)NC1=CC=CC2=CC=CC=C12)C(=O)OCC | C17H17N3O2
